US06653346B1
A mixture of 2-[2,3-Dimethyl-4-(2-oxo-2-phenyl-ethoxy)-phenoxy]-1-phenyl-ethanone (480 mg, 1.28 mmol) synthesized as described in Example 11, an excess of bromoacetophenone, and polyphosphoric acid (PPA, 100 mg) in xylene (10 mL) was stirred at 150° C. for 10 h. The mixture was then poured into water, extracted with EtOAc, the organic layer was washed with water and brine, dried over MgSO4 and concentrated. The residue was purified by silica gel column eluting with 10-20% EtOAc in hexane to give 190 mg of 4,5-dimethyl-1,8-diphenyl-benzo[1,2-b;4,3-b′]difuran (250 mg). 1H NMR (CDCl3, 300 MHz) δ: 7.60 (s, 2H), 7.05 (m, 4H), 6.90 (m, 2H), 6.85 (m, 4H), 2.60 (s, 6H) ppm. 13C NMR (CDCl3, 75 MHz) δ: 152.57,141.48, 133.19, 128.42, 127.52, 126.87, 124.05, 117.40, 116.29, 11.80 ppm. MS (m/z): 339 (M+H+).

reactant | 2-[2,3-Dimethyl-4-(2-oxo-2-phenyl-ethoxy)-phenoxy]-1-phenyl-ethanone | 1.28 mmol, 480 mg | CC1=C(OCC(=O)C2=CC=CC=C2)C=CC(=C1C)OCC(C1=CC=CC=C1)=O | C24H22O4
reactant | bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | water | O | H2O
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4,5-dimethyl-1,8-diphenyl-benzo[1,2-b;4,3-b′]difuran | 190 mg | CC1=C(C=2OC=C(C2C2=C1OC=C2C2=CC=CC=C2)C2=CC=CC=C2)C | C24H18O2
